US06790860B2
To 9.6 g (45 mmol) (2S)-2-Hydroxymethyl-4-methylene-pyrrolidine-1-carboxylic acid tert-butyl ester and 25 g (112.5 mmol, 2.5 eq) 2,4,5-trifluorobenzyl bromide in 950 ml THF were added 3.2 g (73.1 mmol, 50% in mineral oil, 1.6 eq) NaH at 0° C. over a period of 30 min. The reaction was warmed to RT over night, and added to a cooled mixture of saturated aqueous NH4Cl solution and EtOAc, the phases were separated and the inorganic one was extracted with EtOAc, the combined organic ones were washed with brine, dried over Na2SO4, filtered and evaporated. The crude product was purified by flash chromatography using hexane/EtOAc 4:1 as an eluent yielding 5.4 g (34%) (2S)-4-Methylene-2-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as yellow oil, MS: 358 (MH+) and 1.7 g (13%) recovered starting material.

reactant | (2S)-2-Hydroxymethyl-4-methylene-pyrrolidine-1-carboxylic acid tert-butyl ester | 45 mmol, 9.6 g | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=C)CO | C11H19NO3
reactant | 2,4,5-trifluorobenzyl bromide | 112.5 mmol, 25 g, 2.5 eq | FC1=C(CBr)C=C(C(=C1)F)F | C7H4BrF3
reactant | NaH | 73.1 mmol, 3.2 g, 1.6 eq | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 950 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2S)-4-Methylene-2-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 5.4 g, 34% | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=C)COCC1=C(C=C(C(=C1)F)F)F | C18H22F3NO3
